US09024044B2
Step 3. Synthesis of (E)-3-(5-tert-butoxycarbonylthiophen-2-yl)-2-ethyl-propenoic acid
5-[(1E)-2-(methoxycarbonyl)-but-1-en-1-yl]thiophene-2-carboxylic acid tert-butyl ester (34.6 g, 120 mol) was dissolved in tetrahydrofuran (150 mL), and methanol (60 mL), 1 N lithium hydroxide solution (144 mL, 144 mmol) was added, and the mixture was stirred at room temperature for 2 days. The mixture was concentrated under reduced pressure. 0.5 N-Hydrochloric acid solution and ethyl acetate were added to the obtained residue, the organic layer was extracted, and the aqueous layer was extracted three times with ethyl acetate. The organic layers were collected, washed with brine, and dried over anhydrous magnesium sulfate. After filtration, the solvent of the filtrate was evaporated under reduced pressure to give the title compound (32.2 g, 114 mmol, 95%).

reactant | 5-[(1E)-2-(methoxycarbonyl)-but-1-en-1-yl]thiophene-2-carboxylic acid tert-butyl ester | 120 mol, 34.6 g | C(C)(C)(C)OC(=O)C=1SC(=CC1)\C=C(/CC)\C(=O)OC | C15H20O4S
reactant | methanol | 60 mL | CO | CH4O
reactant | lithium hydroxide | 144 mmol, 1 N, 144 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | (E)-3-(5-tert-butoxycarbonylthiophen-2-yl)-2-ethyl-propenoic acid | 114 mmol, 32.2 g, 95% | C(C)(C)(C)OC(=O)C1=CC=C(S1)/C=C(/C(=O)O)\CC | C14H18O4S
